US07056916B2
(b) N-[2-(4-ethylphenyl)-1,1-dimethylethyl]acetamide
6.2 mL of concentrated sulfuric acid is added dropwise to 15.5 g (87 mmol) of 1-(4-ethylphenyl)-2-methylpropan-2-ol in 4.8 mL (91 mmol) acetonitrile and 15 mL glacial acetic acid within 15 minutes, during which time the temperature rises to 65° C. It is then stirred for one hour, diluted with ice water, and made alkaline with concentrated sodium hydroxide solution. After another 30 minutes' stirring, the solid precipitated is suction filtered and washed with water. The crude product is dissolved in ethyl acetate, dried with sodium sulfate, and evaporated down. The oil remaining is combined with petroleum ether, whereupon a solid is precipitated which is filtered off and dried. Yield: 16.3 g (85%); melting point 90° C.–92° C.

reactant | sulfuric acid | 6.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1-(4-ethylphenyl)-2-methylpropan-2-ol | 87 mmol, 15.5 g | C(C)C1=CC=C(C=C1)CC(C)(O)C | C12H18O
reactant | acetonitrile | 91 mmol, 4.8 mL | C(C)#N | C2H3N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | N-[2-(4-ethylphenyl)-1,1-dimethylethyl]acetamide | C(C)C1=CC=C(C=C1)CC(C)(C)NC(C)=O | C14H21NO
